US05047422
1. 8-Bromo-2-tetralone
83.5 g of aluminum chloride (0.63 mmol) were introduced into 1.8 liters of methylene chloride at 0°-+5° C. 105 g (0.49 mole) of 2-bromophenyl-acetyl chloride (dissolved in 200 ml of methylene chloride) were added dropwise at 0°-+5° C. over 30 minutes. After stirring for 30 minutes at 0°-+5° C., 50 g of ethylene were passed in at such a rate that the reaction temperature did not exceed +10° C. The mixture was stirred for a further 2 hours at 20°-+25° C. The aluminum complex was decomposed by careful addition of 500 ml of ice water, the phases were separated, and the aqueous phase was extracted with 250 ml of methylene chloride. The title compound was obtained from the dried methylene chloride phase in a yield of 109 g as a yellow oil (content according to GC 97%) and employed without further purification.

reactant | aluminum chloride | 0.63 mmol, 83.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromophenyl-acetyl chloride | 0.49 mole, 200 ml, 105 g | BrC1=C(C=CC=C1)CC(=O)Cl | C8H6BrClO
reactant | ethylene | 50 g | C=C | C2H4
solvent | methylene chloride | 1.8 liters | C(Cl)Cl | CH2Cl2
product | 8-Bromo-2-tetralone | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
